US05334659
Into a 3-neck, 10 L round bottom flask equipped with a mechanical stirrer, condenser, and a nitrogen inlet was placed α,α-dimethyl-m-isopropenylbenzyl isocyanate (1083 g, 5.38 mol), hexane (6L), and t-butyl alcohol (398.8 g, 5.38 mol). While the mixture was stirred at room temperature, potassium t-butoxide (18.0 g, 160 mmol) was added in portions. Throughout the addition the reaction temperature increased to 50° C. The reaction was complete within an hour. The reaction mixture was washed with water (5L), and thereafter, the organics were separated from the aqueous layer. The organics were dried over magnesium sulfate, filtered, and evaporated to yield a yellow-brown semi-solid. Recrystallization from hexane afforded essentially pure {1-methyl-1-[3-(1-methylethenyl)phenyl]ethyl}carbamic acid 1,1-dimethylethyl ester (1193 g, 81% isolated yield), as shown by proton and carbon-13 NMR spectroscopy.

reactant | α,α-dimethyl-m-isopropenylbenzyl isocyanate | 5.38 mol, 1083 g | CC(C1=CC(=CC=C1)C(=C)C)(C)N=C=O | C13H15NO
reactant | t-butyl alcohol | 5.38 mol, 398.8 g | C(C)(C)(C)O | C4H10O
catalyst | potassium t-butoxide | 160 mmol, 18.0 g | CC(C)([O-])C.[K+]
solvent | hexane | CCCCCC | C6H14
product | {1-methyl-1-[3-(1-methylethenyl)phenyl]ethyl}carbamic acid 1,1-dimethylethyl ester | 1193 g, 81% | CC(C)(C)OC(NC(C)(C1=CC(=CC=C1)C(=C)C)C)=O | C17H25NO2
